US08980877B2
(±)-(E)-3-[1′-(4-Fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester (630 mg, 1.54 mmol) was treated with 1 M NaOH according to the procedure described in Example 16 STEP B to give (±)-(E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid (516 mg, 85%).

reactant | (±)-(E)-3-[1′-(4-Fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester | 1.54 mmol, 630 mg | COC(\C=C\C=1C=C2C(CC3(CN(CCC3)CC3=CC=C(C=C3)F)OC2=CC1)=O)=O | C24H24FNO4
reactant | NaOH | 1 M | [OH-].[Na+]
product | (±)-(E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid | 516 mg, 85% | FC1=CC=C(CN2CC3(CCC2)OC2=CC=C(C=C2C(C3)=O)/C=C/C(=O)O)C=C1 | C23H22FNO4
